US05017563
To a stirred suspension of 1.5 g of castanospermine in 15 ml of pyridine cooled at 0° C. in an ice-bath was added dropwise 1.0 g of butyryl chloride. The mixture was stirred at room temperature for 3 days and added to a 1:1 mixture of water:methylene chloride (400 ml). After partitioning, the aqueous phase was concentrated in vacuo to provide an oily residue which was fractionated by radial thin layer chromatography (silica gel, 2 mm thickness plate, 2:8 methanol: chloroform) to provide 68 mg of [1S-(lα, 6β, 7α, 8β, 8αβ) ]-octahydro-1,6,7,8-indolizinetetrol 6-butanoate, homogeneous by thin layer chromatography (silica gel, 2:8 methanol: chloroform, Rf=0.5). Recrystallization of the product from 5:95 isopropanol:hexane gave a colorless solid melting at 113-114° C. NMR (CDCl3) δ 3.5-3.8 (2t, 2H, C7 --H, and C8 --H), 4.4 (m, 1H, C1 ---H), 4.95 (m, 1H, C6 --H). MS (CI--CH4) 260 (MH+), 242 (MH+ --H2O), 172 (MH+ --C3H7CO2H). Similarly, when the above procedure was repeated using acetyl chloride or propionyl chloride, the following monoesters were obtained:

reactant | castanospermine | 1.5 g | C1CN2C[C@@H]([C@H]([C@@H]([C@H]2[C@H]1O)O)O)O | C8H15NO4
reactant | butyryl chloride | 1.0 g | C(CCC)(=O)Cl | C4H7ClO
reactant | water | O | H2O
reactant | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | octahydro-1,6,7,8-indolizinetetrol 6-butanoate | C(CCC)(=O)OC1CN2CCC(C2C(C1O)O)O | C12H21NO5
